US08703763B2
d) 8-(3,4-Difluoro-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine
A suspension of 8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-amine (5.33 g, 25 mmol), 3,4-difluorophenylboronic acid (5.92 g, 37.5 mmol) and 2M aqueous sodium carbonate solution (62.5 mL, 125 mmol) in 1,4-dioxane (250 mL) was treated with 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (1.02 g, 1.25 mmol) at room temperature and then stirred for 18 hours at 110° C. The reaction was cooled to room temperature and separated between water (312 mL) and ethyl acetate (500 mL). The aqueous layer was extracted with further ethyl acetate (500 mL). The organic layers were washed with saturated aqueous sodium chloride solution (300 mL), combined, dried over sodium sulfate, filtered off and evaporated. The brown solid was trituration with diethyl ether (130 mL) and dichloromethane (25 mL) to yield the title compound as a light brown solid (6.33 g, 97%). MS ISP (m/e): 247.2 (100) [(M+H)+].

reactant | 8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-amine | 25 mmol, 5.33 g | BrC=1C=2N(C=CC1)N=C(N2)N | C6H5BrN4
reactant | 3,4-difluorophenylboronic acid | 37.5 mmol, 5.92 g | FC=1C=C(C=CC1F)B(O)O | C6H5BF2O2
reactant | sodium carbonate | 125 mmol, 2M, 62.5 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,4-dioxane | 250 mL | O1CCOCC1 | C4H8O2
product | 8-(3,4-Difluoro-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 6.33 g, 97% | FC=1C=C(C=CC1F)C=1C=2N(C=CC1)N=C(N2)N | C12H8F2N4
